US07786108B2
Step 3. Preparation of (S)-(3-chloro-5-trifluoromethyl-benzyl)-(7,9-dimethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine
Add a solution of (S)-(9-bromo-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(3-chloro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine (0.39 g, 0.65 mmol) in dioxane (5 mL) to a mixture of methylboronic acid (0.12 g, 1.96 mmol), palladium diphenylphosphinoferrocene dichloride (0.05 g, 0.06 mmol), and cesium fluoride (0.35 g, 2.32 mmol), then purge with nitrogen and stir for 15 min. at room temperature, then at 100° C. for 4 h. After completion, cool the reaction to room temperature, dilute with ethyl acetate (50 mL) and wash with water and brine (10 mL each). Dry the organic layer over sodium sulfate, filter, and remove the solvent under reduced pressure. Purify the residue using flash column chromatography on silica gel, eluting with hexanes/ethyl acetate (0-30% EtOAc in hexane), to provide the title compound as a white solid (0.32 g, 90%). MS (ES+): 533 (M+H).

reactant | (S)-(9-bromo-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(3-chloro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.65 mmol, 0.39 g | BrC1=C(C(=CC2=C1NCCC[C@@H]2N(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)Cl)C)C(F)(F)F | C22H20BrClF6N6
reactant | methylboronic acid | 1.96 mmol, 0.12 g | CB(O)O | CH5BO2
reactant | cesium fluoride | 2.32 mmol, 0.35 g | [F-].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium diphenylphosphinoferrocene dichloride | 0.06 mmol, 0.05 g | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2].[Pd+2]
product | (S)-(3-chloro-5-trifluoromethyl-benzyl)-(7,9-dimethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.32 g, 90% | ClC=1C=C(CN(C=2N=NN(N2)C)[C@@H]2C3=C(NCCC2)C(=C(C(=C3)C)C(F)(F)F)C)C=C(C1)C(F)(F)F | C23H23ClF6N6
